US06586630B1
(2) Synthesis of 2-tert-Butyl-5-hydroxymethyl-furan-3-sulfonamide
Under cooling with ice, a solution of methyl ester of 5-tert-butyl-4-sulfamoyl-furan-2-carboxylic acid (1.90 g) in THF (20 ml) was added dropwise to a suspension of lithium aluminum hydride (0.55 g) in THF (10 ml) over 35 min., followed by stirring for 2 hours. The reaction mixture was diluted with n-hexane, mixed with saturated aqueous ammonium chloride (5 ml) and filtered on Celite, being washed with ethyl acetate. The filtrate was dried over magnesium sulfate and evaporated to remove the solvent; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: n-hexane:ethyl acetate=1:1) to give the titled compound (1.66 g, 98%).

reactant | 5-tert-butyl-4-sulfamoyl-furan-2-carboxylic acid | 1.90 g | C(C)(C)(C)C1=C(C=C(O1)C(=O)O)S(N)(=O)=O | C9H13NO5S
reactant | lithium aluminum hydride | 0.55 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | 2-tert-Butyl-5-hydroxymethyl-furan-3-sulfonamide | 1.66 g, 98% | C(C)(C)(C)C=1OC(=CC1S(=O)(=O)N)CO | C9H15NO4S
